US08791107B2
2-(1H-indol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
The title compound was prepared in a manner similar to EXAMPLE 3 using 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x9, 50 mg, 0.127 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (61.6 mg, 0.253 mmol) and PdCl2(dppf) (4.63 mg, 6.33 μmol) in dioxane (2 mL) and aqueous saturated NaHCO3 (0.4 mL). 1H NMR (400 MHz, DMSO-d6) δ 3.22 (m, 4H), 3.48-3.55 (m, 1H), 3.57-3.68 (m, 1H), 3.93-4.05 (m, 2H), 4.07-4.17 (m, 1H), 4.68-4.79 (m, 3H), 7.00-7.09 (m, 1H), 7.21-7.30 (m, 1H), 7.44-7.50 (m, 1H), 7.52-7.58 (m, 1H), 7.60-7.71 (m, 4H), 7.90-7.98 (m, 2H), 11.44-11.51 (m, 1H). ESI-MS m/z [M+H]+ calc'd for C25H23N5O3S, 476.17. found 476.4.

reactant | 2-chloro-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.127 mmol, 50 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C17H19ClN4O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.253 mmol, 61.6 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 0.4 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) | 6.33 μmol, 4.63 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(1H-indol-4-yl)-5-(4-(methylsulfonyl)benzyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | N1C=CC2=C(C=CC=C12)C1=NC=2N3C(CN(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)COCC3 | C25H25N5O3S
